US06670372B2
Under a nitrogen atmosphere benzyl N-{1-[2-(propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-yl}carbamate (0.37 g, 0.91 mmol), 3-iodo-4-methyl-1-benzenesulfonamide (0.3 g, 0.96 mmol), triethylamine (0.2 mL, 1.36 mmol) and anhydrous acetonitrile (20 mL) were combined. Dichlorobis(triphenylphosphine)palladium(II) (13 mg, 0.018 mol) and copper(I) iodide (7 mg, 0.036 mmol) were added and the reaction solution was heated to ˜45° C. After 3 hours analysis by reverse phase HPLC indicated that the reaction was complete. The reaction solution was concentrated under reduced pressure and the residue was purified by flash chromatography (98/2 to 95/5 dichloromethane/methanol) to provide 0.33 g of benzyl N-(1-{2-[(3-{2-methyl-5-[(methylamino)sulfonyl]phenyl}-2-propynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinolin-4-yl)carbamate as a pale yellow solid.

reactant | benzyl N-{1-[2-(propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-yl}carbamate | 0.91 mmol, 0.37 g | C(#CC)OCCN1C=NC=2C(=NC=3C=CC=CC3C21)NC(OCC2=CC=CC=C2)=O | C23H20N4O3
reactant | 3-iodo-4-methyl-1-benzenesulfonamide | 0.96 mmol, 0.3 g | IC=1C=C(C=CC1C)S(=O)(=O)N | C7H8INO2S
reactant | triethylamine | 1.36 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.018 mol, 13 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.036 mmol, 7 mg | [Cu]I
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | benzyl N-(1-{2-[(3-{2-methyl-5-[(methylamino)sulfonyl]phenyl}-2-propynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinolin-4-yl)carbamate | 0.33 g | CC1=C(C=C(C=C1)S(=O)(=O)NC)C#CCOCCN1C=NC=2C(=NC=3C=CC=CC3C21)NC(OCC2=CC=CC=C2)=O | C31H29N5O5S
